US05284828
To a solution of benzyl (2S)-2-hydroxy-4-methylvalerate (1.00 g) in tetrahydrofuran (20 ml) was added trichloromethyl chloroformate (0.55 ml) at room temperature. The solution was refluxed for 11 hours and the solvent was removed by evaporation at atmospheric pressure to give benzyl (2S)-2-chlorocarbonyloxy-4-methylvalerate (1.26 g) as an oil.

reactant | benzyl (2S)-2-hydroxy-4-methylvalerate | 1.00 g | O[C@H](C(=O)OCC1=CC=CC=C1)CC(C)C | C13H18O3
reactant | trichloromethyl chloroformate | 0.55 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | benzyl (2S)-2-chlorocarbonyloxy-4-methylvalerate | 1.26 g | ClC(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC(C)C | C14H17ClO4
